US08124636B2
To a solution of LDA (9.6 mL of a 2M solution in THF/Heptane) in THF (15 mL) at 0° C. was added 1-(tert-butoxycarbonyl)-2-piperidinecarboxylic acid (2 g as a suspension in 4 mL of THF) dropwise via syringe over 10 minutes. The reaction mixture was stirred a further 20 minutes and then MeI (1.238 g) was added in one portion via syringe. The reaction mixture was allowed to warm to RT and stirred for 72 hours. The reaction was quenched with 2N aqueous HCl solution and diluted with EtOAc. The phases were separated and the aqueous phase was extracted with further EtOAc. The combined organics were washed with brine and dried over sodium sulfate. Filtration and evacuation of the volatiles in vacuo afforded a crude residue which was purified by flash column chromatography over silica gel (Heptane/EtOAc) to afford the desired (rac)-2-methyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester (810 mg, MS (ES−): 242.4 (M−H), brown crystals).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 1-(tert-butoxycarbonyl)-2-piperidinecarboxylic acid | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)O | C11H19NO4
reactant | MeI | 1.238 g | CI | CH3I
solvent | THF Heptane | C1CCOC1.CCCCCCC
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (rac)-2-methyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)(C(=O)O)C | C12H21NO4
